US04637988
Preparation of 3,5-dimethyl-4-hydroxy-4'-nitrobenzophenone (1)
To a stirring solution of p-nitrobenzoyl chloride (76.1 g, 0.410 mol) in 250 mL nitrobenzene were added 82 g of AlCl3 (0.62 mol). To this mixture a solution of 50 grams of 2,6-dimethylphenol (0.41 mole) in 250 mL nitrobenzene was added dropwise over a period of 45 minutes, and the resulting mixture was stirred 16 hours at room temperature. The reaction was poured into 2L of 3% HCl and ice and extracted 3×1L with Et2O (i.e., three times with 1L each time of diethyl ether). The combined ethereal layers were washed with 1L of saturated NaHCO3, then extracted 2×1L with 10% NaOH. The combined basic extracts were acidified with concentrated HCl to give a white precipitate; filtration followed by recrystallization from CH3OH/H2O gave 37 g (33%) of white powder consistent with the desired product by TLC, IR, mass spectroscopy, NMR and elemental analysis, m.p. 182.5-184.5.

reactant | p-nitrobenzoyl chloride | 0.410 mol, 76.1 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | AlCl3 | 0.62 mol, 82 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2,6-dimethylphenol | 0.41 mole, 50 grams | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | HCl | Cl | ClH
solvent | nitrobenzene | 250 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | nitrobenzene | 250 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 3,5-dimethyl-4-hydroxy-4'-nitrobenzophenone | 37 g, 33% | CC=1C=C(C(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=C(C1O)C | C15H13NO4
